### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Monoidal/Mon_): add simp lemmas

### PR DESCRIPTION
**Pull request by yuma-mizuno**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Mon_.lean [hunk 1]
```diff
@@ -497,14 +498,39 @@ instance monMonoidalStruct : MonoidalCategoryStruct (Mon_ C) :=
...
+    (f ▷ Z).hom = f.hom ▷ Z.X := by
+  rw [← tensorHom_id]; rfl
+
+@[simp]
+theorem whiskerRight_hom (X : Mon_ C) {Y Z : Mon_ C} (f : Y ⟶ Z) :
+    (X ◁ f).hom = X.X ◁ f.hom := by
+  rw [← id_tensorHom]; rfl
+
+@[simp]
+theorem left_unitor_hom_hom (X : Mon_ C) : (λ_ X).hom.hom = (λ_ X.X).hom := rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Mon_.lean:515]: I would suggest this name change here (and below):
```suggestion
theorem leftUnitor_hom_hom (X : Mon_ C) : (λ_ X).hom.hom = (λ_ X.X).hom := rfl
```
(Similarly, in the bicategory setting, I believe `left_unitor` should be renamed `leftUnitor`, etc.)

**Comment by joelriou** [comment]
Thanks!

bors merge
